US05356886
To a solution of tetraisopropyl methylenebisphosphonate (2.50 g, 7.26 mmol) in n-heptane (50 ml) was added n-butyllithium (2.70 ml of 2.7M solution in n-hexanes; 7.29 mmol) and the mixture stirred at room temperature under dry nitrogen for 15 min. To the solution was added crude 3-(t-butyldimethylsilyloxy) propanal (approx. 5.85 mmol) and the mixture heated under reflux for 0.5 hr then stirred at room temperature for 64 hr. The mixture was filtered then the solvent removed. The residue was purified by column chromatography on silica gel eluting with dichloromethane-ethyl acetate (9:1, 4:1) to afford diisopropyl (E)-4-(t-butyldimethylsilyloxy)but-1-enylphosphonate as a colourless oil (1.10 g, 43%); νmax (film) 2940, 1625, 1460, 1380, 1250, 1105, 980 and 830 cm-1 ; δH (CDCl3) 0.03 (6H, s, SiCH3), 0.90 (9H, s, C(CH3)3), 1.32 (12H, dd, J 3 Hz and 6 Hz, CH(CH3)2), 2.43 (2H, m, CH2), 3.72 (2H, t, J 7 Hz, CH2O ), 4.65 (2H, m, CH(CH3)2), 5.72 (1H, dd, J 17 Hz and 20 Hz, PCH=CH), 6.75 (1H, ddt, J 7 Hz, 17 Hz and 20 Hz, PCH=CH); FABMS(thioglycerol) 351 (MH+) (Found: C, 54.76; H, 10.05%. C16H35O4PSI requires C, 54.84; H, 10.07%).

reactant | tetraisopropyl methylenebisphosphonate | 7.26 mmol, 2.50 g | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C13H30O6P2
reactant | n-butyllithium | 7.29 mmol, 2.7M, 2.70 ml | C(CCC)[Li]
reactant | 3-(t-butyldimethylsilyloxy) propanal | approx. 5.85 mmol | [Si](C)(C)(C(C)(C)C)OCCC=O | C9H20O2Si
solvent | n-heptane | 50 ml | CCCCCCC | C7H16
product | diisopropyl (E)-4-(t-butyldimethylsilyloxy)but-1-enylphosphonate | 1.10 g, 43% | [Si](C)(C)(C(C)(C)C)OCC/C=C/P(OC(C)C)(OC(C)C)=O | C16H35O4PSi
